US08138345B2
Preparation of 5-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)pentanoic Acid
To a mixture of 5-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}-methylamino)pentanoic acid methyl ester (10.21 g, 20.60 mmol), tert-butyl alcohol (20 mL) and water (20 mL) was added a 1:1 mixture of LiOH:water (1.97 g, 41.2 mmol). The resulting mixture was stirred at room temperature for 4 h and then the pH of the mixture was adjusted to about pH 2 using aqueous hydrochloric acid (1 N). The aqueous layer was extracted with DCM (2×˜80 mL) and the organic layers were combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (12.23 g, quantitative) as an off-white foamy solid (containing residual tert-butyl alcohol).

reactant | 5-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}-methylamino)pentanoic acid methyl ester | 20.60 mmol, 10.21 g | COC(CCCCN(C)C(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C28H37N3O5
reactant | LiOH | [Li+].[OH-]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | tert-butyl alcohol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | water | 20 mL | O | H2O
solvent | water | 41.2 mmol, 1.97 g | O | H2O
product | 5-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)pentanoic Acid | 12.23 g | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)CNCCCCC(=O)O)C1=CC=CC=C1 | C27H35N3O5
